US07932282B2
A mixture of 3-methyl-1-(6-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt (147 mg, 0.42 mmol), 1-hydroxybenzotriazole hydrate (96 mg, 0.63 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (121 mg, 0.63 mmol) and N-ethyl morpholine (0.27 ml, 2.1 mmol) in dichloromethane (8 ml) was stirred at room temperature for 10 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (88 mg, 0.42 mmol) in dichloromethane (2 ml) was added and the reaction stirred at room temperature for 4 hours. The mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate solution. The organic phase was separated, washed with water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(6-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxamide (110 mg, 61%). LC/MS [M+H]+=427, retention time=2.66 minutes.

reactant | 3-methyl-1-(6-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.42 mmol, 147 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C1=NC(=CC=C1)C)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.63 mmol, 96 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.63 mmol, 121 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 2.1 mmol, 0.27 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.42 mmol, 88 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(6-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxamide | 110 mg, 61% | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C1=NC(=CC=C1)C)=O)C | C19H18ClF3N4O2
